US05716756
10.1 g (15.2 mmol) of 1,1,1,3,3,3-hexafluoro-2,2-bis-[4-methyl-3-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-propane were dissolved in 50 ml of methylene chloride, and 3.4 g (33 mmol) of triethylamine were added at 0° C. 4.0 g (34.7 mmol) of methanesulfonyl chloride in 20 ml of methylene chloride were added dropwise at 0° to 5° C. The mixture was stirred for 24 hours at room temperature, separated off from the precipitated salt, washed with water, dried and evaporated down. The oily residue was recrystallized. 9.2 g of 1,1,1,3,3,3-hexafluoro-2,2-bis-[4-methyl-3-(2,2,2-trifluoro-1-methanesulfonyloxy-1-trifluoromethyl-ethyl)-phenyl]-propane were obtained (colorless crystals, m.p.: 135° C. [from toluene]).

reactant | 1,1,1,3,3,3-hexafluoro-2,2-bis-[4-methyl-3-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-propane | 15.2 mmol, 10.1 g | FC(C(C(F)(F)F)(C1=CC(=C(C=C1)C)C(C(F)(F)F)(O)C(F)(F)F)C1=CC(=C(C=C1)C)C(C(F)(F)F)(C(F)(F)F)O)(F)F | C23H14F18O2
reactant | triethylamine | 33 mmol, 3.4 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 34.7 mmol, 4.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1,3,3,3-hexafluoro-2,2-bis-[4-methyl-3-(2,2,2-trifluoro-1-methanesulfonyloxy-1-trifluoromethyl-ethyl)-phenyl]-propane | 9.2 g | FC(C(C(F)(F)F)(C1=CC(=C(C=C1)C)C(C(F)(F)F)(OS(=O)(=O)C)C(F)(F)F)C1=CC(=C(C=C1)C)C(C(F)(F)F)(C(F)(F)F)OS(=O)(=O)C)(F)F | C25H18F18O6S2
